US07235572B2
In analogy to the procedure described in example 1 b], 4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-1H-indole (example 1 a]) was reacted with 2-bromo-propionic acid tert-butyl ester in the presence of sodium hydride to obtain [rac]-2-{4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-propionic acid tert-butyl ester as yellow oil.

reactant | 4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-1H-indole | CC=1N=C(SC1COC1=C2C=CNC2=CC=C1)C1=CC=C(C=C1)C(F)(F)F | C20H15F3N2OS
reactant | 2-bromo-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
reactant | sodium hydride | [H-].[Na+]
product | [rac]-2-{4-[4-methyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-indol-1-yl}-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)N1C=CC2=C(C=CC=C12)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C27H27F3N2O3S
